US05965606
2-Oxo-4,4,8-trimethylchroman (Compound P1)
In a 500 ml of round bottom flask, NaH (1.66 g, 60% suspension in oil, 0.046 mol) was washed with dry hexane. Then, dry THF (22 ml) was added followed by o-cresol (5 g, 0.046 mol) in 10 ml of dry THF. The reaction mixture was stirred at 0° C. for 30 min followed by addition of 3,3-dimethyl acryloyl chloride in 10 ml of THF. The resulting white slurry was stirred at room temperature for 12 h, then slowly quenched with water. The mixture was then extracted with ethyl acetate. The organic layer was washed with brine, water and dried over MgSO4. After filtration and removal of the solvent, a yellow oil was obtained (10.44 g). This oil was then dissolved in 50 ml of dry CH2Cl2, and was canulated into a solution of AlCl3 (10.8 g, 0.069 mmol) in 10 ml of CH2Cl2. The reaction mixture was stirred at room temperature for 12 h. Then ice-water was carefully added and the organic layer was separated, and washed with NaHCO3 (sat), brine, water and finally dried over MgSO4. After removal of the drying agent and solvent, the residue was purified by column chromatography (silica gel, ethyl acetate/hexane 1/9) to yield the title compound (4.408 g) as an oil.

reactant | NaH | 0.046 mol, 1.66 g | [H-].[Na+]
reactant | o-cresol | 0.046 mol, 5 g | C1(=CC=CC=C1O)C | C7H8O
reactant | 3,3-dimethyl acryloyl chloride | CC(=CC(=O)Cl)C | C5H7ClO
reactant | AlCl3 | 0.069 mmol, 10.8 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | hexane | CCCCCC | C6H14
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 22 ml | C1CCOC1 | C4H8O
product | 2-Oxo-4,4,8-trimethylchroman | 4.408 g | O=C1OC2=C(C=CC=C2C(C1)(C)C)C | C12H14O2
